US07034039B2
A mixture of tert-butyl[2-isobutyl-1-oxo-4-(2-thienyl)-6-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinyl]methylcarbamate (1.40 g, 2.5 mmol), 1,1′-bis(diphenylphosphino)ferrocene (66 mg, 0.12 mmol), triethylamine (0.39 ml, 2.8 mmol) and palladium acetate (27 mg, 0.12 mmol) in tetrahydrofuran (20 ml) and methanol (20 ml) was stirred at 100° C. under a carbon monoxide atmosphere at 5 atom for 3 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-6-isoquinolinecarboxylate (1.02 g, 87.2%) as crystals.

reactant | tert-butyl[2-isobutyl-1-oxo-4-(2-thienyl)-6-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 2.5 mmol, 1.40 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)OS(=O)(=O)C(F)(F)F)=O)CC(C)C)=O | C24H27F3N2O6S2
reactant | triethylamine | 2.8 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.12 mmol, 66 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium acetate | 0.12 mmol, 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-6-isoquinolinecarboxylate | 1.02 g, 87.2% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)C(=O)OC)=O)CC(C)C | C25H30N2O5S
